### PR TITLE
[Merged by Bors] - feat(Dynamics.TopologicalEntropy.Semiconj): topological entropy and semiconjugacies

### PR DESCRIPTION
**Pull request by D-Thomine**
Fourth PR in a sequence to implement the notion of topological entropy for maps using Bowen-Dinaburg's formalism. This file deals with the entropy of two systems related by a semiconjugacy.

- [x] Dynamical uniformities
- [x] Topological entropy via covers
- [x] Topological entropy via nets
- [x] Behaviour under semiconjugacy
- [ ] Behaviour for subsets and unions
- [ ] Behaviour under products
- [ ] Full shift

There is only one new file, `Dynamics.TopologicalEntropy.Semiconj`, which is quite short (200 lines including the documentation), and no other modification. I must say I am quite pleased by `coverEntropy_image`.

Paging @pitmonticone @sgouezel

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean [hunk 1]
```diff
@@ -0,0 +1,197 @@
...
+    (Nat.cast_nonneg' n) (log_monotone (ENat.toENNReal_mono (coverMincard_image_le h F V n)))))
+
+lemma coverEntropyInfEntourage_image_le (h : Semiconj φ S T) (F : Set X) (V : Set (Y × Y)) :
+    coverEntropyInfEntourage T (φ '' F) V ≤ coverEntropyInfEntourage S F ((Prod.map φ φ) ⁻¹' V) :=
+  (liminf_le_liminf) (Eventually.of_forall fun n ↦ (monotone_div_right_of_nonneg
+    (Nat.cast_nonneg' n) (log_monotone (ENat.toENNReal_mono (coverMincard_image_le h F V n)))))
+
+/-- The entropy of `φ '' F` equals the entropy of `F` if `X` is endowed with the pullback by `φ`
+  of the uniform structure of `Y`.-/
+theorem coverEntropy_image (u : UniformSpace Y) {S : X → X} {T : Y → Y} {φ : X → Y}
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean:142]: In most situations, I expect that people will already have a uniform structure on the space above, so maybe it's worth emphasizing in the lemma name that it's not designed for this case. Maybe rename it `coverEntropy_image_of_comap`?
Same thing for the next lemma.

File: Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean [hunk 2]
```diff
@@ -0,0 +1,197 @@
...
+    simp only [uniformity_comap φ, mem_comap] at U_uni
+    rcases U_uni with ⟨V, V_uni, V_sub⟩
+    rcases comp_symm_mem_uniformity_sets V_uni with ⟨W, W_uni, W_symm, W_V⟩
+    apply (coverEntropyInfEntourage_antitone S F ((preimage_mono W_V).trans V_sub)).trans
+    apply (le_coverEntropyInfEntourage_image h F W_symm).trans
+    exact coverEntropyInfEntourage_le_coverEntropyInf T (φ '' F) W_uni
+
+/-- The entropy of `φ '' F` is lower than entropy of `F` if  `φ` is uniformly continuous.-/
+theorem coverEntropy_image_le_of_uniformContinuous [UniformSpace X] [UniformSpace Y] {S : X → X}
+    {T : Y → Y} {φ : X → Y} (h : Semiconj φ S T) (h' : UniformContinuous φ) (F : Set X) :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean:178]: Is it enough to assume that \phi is uniformly continuous on the union of the iterates of F (or just on F if it is invariant)? I am imagining a situation where \phi is continuous but not uniformly continuous, and F is compact and invariant (which is a pretty common situation). Then the inequality between entropies should hold, but I don't think the current formulation would get it.

File: Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean]: Done.

File: Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean:195]: Good idea. It's still a bit raw, but I added 4 new lemmas :

- `coverEntropy_restrict` is generalized to any subset of an invariant set: `coverEntropy_restrict_subset`/`coverEntropyInf_restrict_subset `
- I leverage this generalization to get `coverEntropy_image_le_of_uniformContinuousOn_invariant`/`coverEntropyInf_image_le_of_uniformContinuousOn_invariant`

The later statement is the inequality of entropies between `F` and `φ '' F` whenever `φ` is uniformly continuous on an invariant subset `G` which contains `F`.

Taking `G = univ`, we recover `coverEntropy_image_le_of_uniformContinuous`. Taking `F = G`, we recover the case where `F` is invariant. Taking `G` as the union of iterates of `F`, we recover your first statement.

I am keeping `coverEntropy_restrict` for its conceptual importance, and `coverEntropy_image_le_of_uniformContinuous` because it's pretty clean (I think this is the one which would most often be used) and helps in the proof of the more general statement. I don't think it's worth writing the other consequences, because everything should be plug-an-play from here, but I can still add them if needed.

File: Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean [hunk 3]
```diff
@@ -0,0 +1,231 @@
...
+defined as the entropy of the restriction to `F` of the system. We chose instead to give a direct
+definition of the topological entropy of a subset, so as to avoid working with subtypes. Theorem
+`coverEntropy_restrict` shows that this choice is coherent with the literature.
+
+## Implementation notes
+We use only the definition of the topological entropy using covers; the simplest version of
+`IsDynCoverOf.image` for nets fails.
+
+## Main results
+- `coverEntropy_image`/`coverEntropyInf_image`: the entropy of `φ '' F` equals the entropy of `F`
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/Semiconj.lean:43]: Can you fix the names in this docstring?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
